US06818631B1
5-Iodo-2-methylthio-6-trifluoromethyl-3H-pyrimidin-4-one (11.8 g) was dissolved in phosphoryl chloride (40 ml) and phosphorous pentachloride (7.9 g) was added at room temperature with stirring. The mixture was refluxed for 3 hr and the phosphoryl chloride was removed under reduced pressure. The residue was poured onto icy water and extracted with chloroform. The chloroform layer was washed with water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure to give 4-chloro-5-iodo-2-methylthio-6-trifluoromethylpyrimidine (12.2 g) as pale brown crystalline solid, mp 55-56° C.

reactant | 5-Iodo-2-methylthio-6-trifluoromethyl-3H-pyrimidin-4-one | 11.8 g | IC=1C(NC(=NC1C(F)(F)F)SC)=O | C6H4F3IN2OS
reactant | phosphorous pentachloride | 7.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphoryl chloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-iodo-2-methylthio-6-trifluoromethylpyrimidine | 12.2 g | ClC1=NC(=NC(=C1I)C(F)(F)F)SC | C6H3ClF3IN2S
